US08497264B2
A vial was charged with (S)-3-bromo-7-iodo-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.520 g, 1.102 mmol), DIPA (0.785 mL, 5.51 mmol), Pd(PPh3)4 (0.127 g, 0.110 mmol), copper(I) iodide (0.021 g, 0.110 mmol), and 3,3-dimethyl-1-butyne (0.203 mL, 1.652 mmol) DMF (3 ml) was added, the vial was sealed under argon, and was heated to 90° C. for 60 minutes. The reaction mixture was diluted with 2-MeTHF then washed with water. The organics were dried over MgSO4 and concentrated. Purification of the crude residue by column chromatography gave (S)-3,7-bis(3,3-dimethylbut-1-ynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.180 g, 0.421 mmol) as a white solid. [M+H]+=428.0

reactant | (S)-3-bromo-7-iodo-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 1.102 mmol, 0.520 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)I | C15H11BrIN3O2
reactant | 3,3-dimethyl-1-butyne | 1.652 mmol, 0.203 mL | CC(C#C)(C)C | C6H10
solvent | 2-MeTHF | CC1CCCO1 | C5H10O
catalyst | Pd(PPh3)4 | 0.110 mmol, 0.127 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.110 mmol, 0.021 g | [Cu]I
product | (S)-3,7-bis(3,3-dimethylbut-1-ynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.421 mmol, 0.180 g | CC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)C#CC(C)(C)C)(C)C | C27H29N3O2
